US07776875B2
Preparation of Intermediate E/Z-6-chloro-3-[2-(1-ethoxycarbonyl-1-methyl-ethoxy)-5-fluoro-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
To a solution of E/Z-2-[2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-4-fluoro-phenoxy]-2-methyl-propionic acid ethyl ester (5 g, 12 mmol) in dichloromethane (50 mL) at room temperature was added di-tert-butyl-dicarbonate (3.1 g, 14 mmol), followed by the addition of 4-dimethylaminopyridine (0.15 g, 1.2 mmol). After the reaction mixture was stirred at room temperature for 2 h, the solution was washed with HCl aq. (1 M) and brine twice, dried over anhydrous Na2SO4 and concentrated to give the title compound as a yellow solid (6.5 g).

reactant | Z-2-[2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-4-fluoro-phenoxy]-2-methyl-propionic acid ethyl ester | 12 mmol, 5 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)F)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O)=O | C21H19ClFNO4
reactant | di-tert-butyl-dicarbonate | 14 mmol, 3.1 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.2 mmol, 0.15 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Z-6-chloro-3-[2-(1-ethoxycarbonyl-1-methyl-ethoxy)-5-fluoro-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 6.5 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)F)OC(C)(C)C(=O)OCC)=O | C26H27ClFNO6
